US04064257
A mixture containing 0.397 mole of hex-5-yn-1-ol tosylate; 0.76 mole of sodium azide; and one liter of methanol and 200 ml. of water is stirred at 60° C for 4 hours. The mixture is then evaporated under vacuum to remove the majority of the methanol and the remaining concentrate then poured into 500 ml. of ethyl ether, and then extracted three times with water, and dried over anhydrous magnesium sulfate and filtered. The filtrate is then evaporated, under vacuum, affording 1-azidohex-5-yne as a residue.

reactant | hex-5-yn-1-ol tosylate | 0.397 mole | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCC#C | C13H16O3S
reactant | sodium azide | 0.76 mole | [N-]=[N+]=[N-].[Na+]
reactant | methanol | one liter | CO | CH4O
solvent | water | O | H2O
product | 1-azidohex-5-yne | N(=[N+]=[N-])CCCCC#C | C6H9N3
